US07335658B2
6-[4-(2-DIMETHYLAMINOBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC Acid (2-CYCLOPROPYLETHYL)AMIDE
Following the procedure of Example 9, making variations only as required to use 2-dimethylaminobenzoic acid in place of 2,5-dichlorobenzoic acid to react with 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide, the title compound was obtained as a white solid (61% yield). 1H NMR (300 MHz, CDCl3) δ 8.04, 7.96, 7.36-7.25, 7.05-6.94, 4.17-3.40, 2.80, 1.51, 0.80-0.73, 0.47-0.42, 0.12-0.07.

reactant | 2-dimethylaminobenzoic acid | CN(C1=C(C(=O)O)C=CC=C1)C | C9H11NO2
reactant | 6-piperazin-1-yl-pyridazine-3-carboxylic acid (2-cyclopropylethyl)amide | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCNCC1 | C14H21N5O
product | 6-[4-(2-DIMETHYLAMINOBENZOYL)PIPERAZIN-1-YL]PYRIDAZINE-3-CARBOXYLIC Acid (2-CYCLOPROPYLETHYL)AMIDE | C1(CC1)CCNC(=O)C=1N=NC(=CC1)N1CCN(CC1)C(C1=C(C=CC=C1)N(C)C)=O | C23H30N6O2
